US04954518
3.06 g of acetic anhydride and 2.76 g of formic acid were mixed and stirred for 1.5 hours at 40°-45° C. to prepare a mixed acid anhydride. Separately, 5.06 g of 3-amino-2-bromo-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one hydrobromide was suspended in 100 ml of methylene chloride. To the suspension being ice-cooled was added 1.06 g of triethylamine, and the mixture was stirred for 30 minutes at the same temperature. Thereto was added the above mixed acid anhydride, and the resulting mixture was stirred for 1 hour at 20°-25° C. The solvent was removed by distillation under reduced pressure. The residue was mixed with 200 ml of water. The resulting crystal was collected by filtration and recrystallized from ethyl acetate-diisopropyl ether to obtain 4.15 g (yield: 97.6%) of 2-bromo-3-formylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 237°-238° C.

reactant | acetic anhydride | 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 2.76 g | C(=O)O | CH2O2
reactant | 3-amino-2-bromo-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one hydrobromide | 5.06 g | Br.NC1=C(OC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)Br
reactant | triethylamine | 1.06 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-formylamino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 4.15 g, yield: 97.6% | BrC=1OC2=C(C(C1NC=O)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13BrN2O6S
